US05075330
A solution of methyl isothiocyanate (1.36 g, 18.56 mmol) in 2 ml of dioxane is added dropwise to a suspension of 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-lH-indole-3-methanamine (2.01 g, 5.84 mmol) in 60 ml of dioxane and 60 ml of H20 at 0° C. The ice bath is removed. After one hour 0.5 g (6.84 mmol) additional methyl isothiocyanate is added and the reaction mixture is stored in a freezer overnight. The solids are collected by filtration and recrystallized from THF/hexane, rinsed with ether, and dried under high vacuum over P2O5 to give pure 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-N-[(methylamino)thioxomethyl]-lH-indole-3-methanamine (1.32 g, 54%); mp 198°-198.5° C. (dec).

reactant | methyl isothiocyanate | 18.56 mmol, 1.36 g | CN=C=S | C2H3NS
reactant | 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-lH-indole-3-methanamine | 5.84 mmol, 2.01 g | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CNO)C)C=C1 | C18H17ClN2O3
reactant | methyl isothiocyanate | 6.84 mmol, 0.5 g | CN=C=S | C2H3NS
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-N-[(methylamino)thioxomethyl]-lH-indole-3-methanamine | 1.32 g, 54% | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CN(C(=S)NC)O)C)C=C1 | C20H20ClN3O3S
